US06048885
N,N-Dimethylformamide (3 ml) and 60% sodium hydride (0.16 g, 3.9 mmol) were added to imidazole (0.27 g, 3.9 mmol), and the mixture was stirred at room temperature for 10 minutes. Then, 2-(3-chlorophenoxymethyl)-α-methoxyiminobenzyl chloride (0.40 g, 1.3 mmol) was added, and the mixture was stirred at 110° C. for 2 hours. After completion of the reaction, ether (100 ml) was added, and the mixture was washed with brine (80 ml) twice. The ether layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) and recrystallized from ethyl acetate/n-hexane to give 1-[2-(3-chlorophenoxymethyl)-α-methoxyiminobenzyl]imidazole (0.29 g, 65.3%) as colorless crystals. mp. 96.5-97.5° C.

reactant | N,N-Dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 3.9 mmol, 0.16 g | [H-].[Na+]
reactant | imidazole | 3.9 mmol, 0.27 g | N1C=NC=C1 | C3H4N2
reactant | 2-(3-chlorophenoxymethyl)-α-methoxyiminobenzyl chloride | 1.3 mmol, 0.40 g | ClC=1C=C(OCC2=C(C(=NOC)Cl)C=CC=C2)C=CC1 | C15H13Cl2NO2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-[2-(3-chlorophenoxymethyl)-α-methoxyiminobenzyl]imidazole | 0.29 g, 65.3% | ClC=1C=C(OCC2=C(C(=NOC)N3C=NC=C3)C=CC=C2)C=CC1 | C18H16ClN3O2
